US07592373B2
3.1.c. methyl [4-(2-diethylaminoethoxy)phenyl]carbamate
76.38 g (366.66 mmol) of 4-(2-diethylaminoethoxy)phenylamine and 101.65 mL (733.33 mmol) of triethylamine are dissolved in 400 mL of THF. A solution of 49.16 g (366.66 mmol) of dimethylpyrocarbonate in 200 mL of THF is added dropwise to this solution within 45 minutes at 25° C. and the mixture is stirred for 2 hours at ambient temperature. The reaction mixture is evaporated down, the residue is added to water and extracted with ethyl acetate. The combined organic phases are extracted twice with water. The organic phase is evaporated down, during which time a precipitate forms, which is filtered off. The filtrate is evaporated down further. The purification is carried out by column chromatography on aluminum oxide (eluant: ethyl acetate/petroleum ether (3:1)). Yield: 63.3 g (64.8% of theory); C14H22N2O3 (M=266.34); calc.: molecular ion peak (M+H)+: 267; found: molecular ion peak (M+H)+: 267; Rf value: 0.62 (aluminum oxide, ethyl acetate/petroleum ether (3:1)).

reactant | 4-(2-diethylaminoethoxy)phenylamine | 366.66 mmol, 76.38 g | C(C)N(CCOC1=CC=C(C=C1)N)CC | C12H20N2O
reactant | triethylamine | 733.33 mmol, 101.65 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylpyrocarbonate | 366.66 mmol, 49.16 g | COC(=O)OC(=O)OC | C4H6O5
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | methyl [4-(2-diethylaminoethoxy)phenyl]carbamate | C(C)N(CCOC1=CC=C(C=C1)NC(OC)=O)CC | C14H22N2O3
